US08022222B2
Using the method of Example 3, Step A, methyl 2-hydroxybenzoate (2.88 mg, 18.9 mmol), 60% sodium hydride in mineral oil (757 mg, 18.9 mmol), and 2-chloro-4-nitropyridine (3.00 g, 18.9 mmol) were reacted to provide methyl 2-(2-chloropyridin-4-yloxy)benzoate (3.51 g, 70% yield) as an oil. 1H NMR (CDCl3) δ 8.22 (d, 1H), 8.05 (d, 1H), 7.63 (t, 1H), 7.40 (t, 1H), 7.16 (d, 1H), 6.72-6.74 (m, 1H), 3.77 (s, 1H).

reactant | methyl 2-hydroxybenzoate | 18.9 mmol, 2.88 mg | OC1=C(C(=O)OC)C=CC=C1 | C8H8O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 18.9 mmol, 3.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | methyl 2-(2-chloropyridin-4-yloxy)benzoate | 3.51 g, 70% yield | ClC1=NC=CC(=C1)OC1=C(C(=O)OC)C=CC=C1 | C13H10ClNO3
